US06313122B1
Preparation of N1-(4-Methoxybenzoyl)-N2-[1-(4-nitrobenzyl)piperidin-4-ylcarbonyl]-1,2-benzenediamine
Using the general procedure described in Example 3, N1-(4-methoxybenzoyl)-N2-(piperidin-4-ylcarbonyl)-1,2-benzenediamine (0.14 mmol) was reacted with 4-nitrobenzaldehyde to provide 36 mg of the title product as the free base. Treatment with hydrochloric acid and concentration in vacuo yielded the salt of the title compound.

reactant | N1-(4-methoxybenzoyl)-N2-(piperidin-4-ylcarbonyl)-1,2-benzenediamine | 0.14 mmol | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NC(=O)C2CCNCC2)C=C1 | C20H23N3O3
reactant | 4-nitrobenzaldehyde | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
product | N1-(4-Methoxybenzoyl)-N2-[1-(4-nitrobenzyl)piperidin-4-ylcarbonyl]-1,2-benzenediamine | 36 mg | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NC(=O)C2CCN(CC2)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C27H28N4O5
